US05430150
[S-(R*,R*)]-[2-Methyl-1-[[(3-pyridinylmethyl)amino]carbonyl]butyl]carbamic acid 1,1-dimethylethyl ester
The title compound is prepared by the procedure of Example 1, using 1.0 g of 3-(aminomethyl)pyridine, 2.33 g of N-(tert-butoxycarbonyl)-L-isoleucine, 6.95 g of BOP, 11.95 g of Hunig's base and 15 ml of methylene chloride to give 2.1 g of the desired product after chromatography.

reactant | 3-(aminomethyl)pyridine | 1.0 g | NCC=1C=NC=CC1 | C6H8N2
reactant | N-(tert-butoxycarbonyl)-L-isoleucine | 2.33 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
reactant | BOP | 6.95 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Hunig's base | 11.95 g | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | [2-Methyl-1-[[(3-pyridinylmethyl)amino]carbonyl]butyl]carbamic acid 1,1-dimethylethyl ester | 2.1 g | CC(C)(C)OC(NC(C(CC)C)C(=O)NCC=1C=NC=CC1)=O | C17H27N3O3
